US07981888B2
3-(2-isopropylphenyl)-1-(3-(1-naphthyloxy)propyl)-5-phenyl-1H-indole-2-carboxylic acid
A mixture of ethyl 5-chloro-3-(2-isopropylphenyl)-1-(3-(naphthalen-1-yloxy)propyl)-1H-indole-2-carboxylate (the synthesis of this compound was similar to the intermediate described in EXAMPLE 134) (56 mg), phenylboronic acid (26 mg), diacetoxypalladium (2.39 mg), dicyclohexyl(2′,6′-dimethoxybiphenyl-2-yl)phosphine (8.74 mg) and K3PO4 (67.8 mg) was heated at 180° C. in a CEM microwave synthesizer for 1 hour. The reaction was concentrated and the residue was purified by flash chromatography, eluting with 0-50% dichloromethane in hexane. The collected desired ester was saponified with NaOH in tetrahydrofuran-methanol-H2O at 50° C. overnight to provide the title compound. 1H NMR (400 MHz, dimethyl sulfoxide-d6) δ 12.76 (s, 1H), 8.17 (d, J=8.29 Hz, 1H), 7.86 (d, J=7.67 Hz, 1H), 7.78 (d, J=8.90 Hz, 1H), 7.43-7.58 (m, 6H), 7.32-7.44 (m, 5H), 7.28 (t, J=7.21 Hz, 1H), 7.22 (d, J=1.84 Hz, 1H), 7.16-7.21 (m, 1H), 7.06-7.12 (m, 1H), 6.87 (d, J=7.36 Hz, 1H), 4.95 (t, J=7.06 Hz, 2H), 4.21 (t, J=6.14 Hz, 2H), 2.68-2.82 (m, J=7.06 Hz, 1H), 2.37-2.47 (m, 2H), 1.03 (d, J=6.75 Hz, 3H), 0.96 (d, J=6.75 Hz, 3H).

reactant | ethyl 5-chloro-3-(2-isopropylphenyl)-1-(3-(naphthalen-1-yloxy)propyl)-1H-indole-2-carboxylate | ClC=1C=C2C(=C(N(C2=CC1)CCCOC1=CC=CC2=CC=CC=C12)C(=O)OCC)C1=C(C=CC=C1)C(C)C | C33H32ClNO3
reactant | phenylboronic acid | 26 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | dicyclohexyl(2′,6′-dimethoxybiphenyl-2-yl)phosphine | 8.74 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
reactant | K3PO4 | 67.8 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
catalyst | diacetoxypalladium | 2.39 mg | C(C)(=O)O[Pd]OC(C)=O
product | 3-(2-isopropylphenyl)-1-(3-(1-naphthyloxy)propyl)-5-phenyl-1H-indole-2-carboxylic acid | C(C)(C)C1=C(C=CC=C1)C1=C(N(C2=CC=C(C=C12)C1=CC=CC=C1)CCCOC1=CC=CC2=CC=CC=C12)C(=O)O | C37H33NO3
